US07932272B2
5-(2-Fluoro-benzyl)-thiophene-2-carbaldehyde
2-(5-(2-Fluoro-benzyl)-thiophen-2-yl)-[1,3]dioxolane described in Preparation Example 122 (4.33 g, 16.4 mmol) was dissolved in a mixture solvent of methanol (40 mL) and water (10 mL), 1N hydrochloric acid (20 mL) was added thereto, followed by stirring at room temperature for 1 hour. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and the title compound (3.54 g, 16.1 mmol, 98%) was obtained as a light yellow oil.

reactant | 2-(5-(2-Fluoro-benzyl)-thiophen-2-yl)-[1,3]dioxolane | FC1=C(CC2=CC=C(S2)C2OCCO2)C=CC=C1 | C14H13FO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | hydrochloric acid | 1N, 20 mL | Cl | ClH
product | 5-(2-Fluoro-benzyl)-thiophene-2-carbaldehyde | 16.1 mmol, 3.54 g, 98% | FC1=C(CC2=CC=C(S2)C=O)C=CC=C1 | C12H9FOS
